US08133882B2
250 mg of 3-(aminomethyl)-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one hydrochloride was dissolved in 25 ml of THF, and 0.11 ml of diethyl (2-oxopropyl)phosphonate and 123 mg of sodium triacetoxyborohydride, 0.16 ml of triethylamine and 1.25 ml of acetic acid were added in that order, followed by overnight stirring at room temperature. Water was added, and the insoluble materials were collected by filtration and then purified by silica gel column chromatography to obtain 135 mg of diethyl[2-({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)propyl]phosphonate.

reactant | 3-(aminomethyl)-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one hydrochloride | 250 mg | Cl.NCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC
reactant | diethyl (2-oxopropyl)phosphonate | 0.11 ml | O=C(CP(OCC)(OCC)=O)C | C7H15O4P
reactant | sodium triacetoxyborohydride | 123 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | acetic acid | 1.25 ml | C(C)(=O)O | C2H4O2
product | diethyl[2-({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]methyl}amino)propyl]phosphonate | 135 mg | C(C)OP(OCC)(=O)CC(C)NCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC | C28H45FN3O4P
